US09447083B2
Synthesis of 2-(2-methyl-6-(tetrahydrofuran-3-yl)phenoxy)acetohydrazide: methyl 2-(2-methyl-6-(tetrahydrofuran-3-yl)phenoxy)acetate (141 mg, 0.56 mmol) and hydrazine (0.03 mL, 0.6 mmol) were dissolved in EtOH 2 mL, followed by stirring at 100° C. for 12 hours. After the completion of the reaction, the reaction mixture was concentrated under reduced pressure to obtain 2-(2-(furan-3-yl)-6-methylphenoxy)acetohydrazide (127 mg, 90%).

reactant | 2-(2-methyl-6-(tetrahydrofuran-3-yl)phenoxy)acetohydrazide | CC1=C(OCC(=O)NN)C(=CC=C1)C1COCC1 | C13H18N2O3
reactant | methyl 2-(2-methyl-6-(tetrahydrofuran-3-yl)phenoxy)acetate | 0.56 mmol, 141 mg | CC1=C(OCC(=O)OC)C(=CC=C1)C1COCC1 | C14H18O4
reactant | hydrazine | 0.6 mmol, 0.03 mL | NN | H4N2
solvent | EtOH | 2 mL | CCO | C2H6O
product | 2-(2-(furan-3-yl)-6-methylphenoxy)acetohydrazide | 127 mg, 90% | O1C=C(C=C1)C1=C(OCC(=O)NN)C(=CC=C1)C | C13H14N2O3
